US05239083
4-{2-[3-(1-benzylindol-5-yl)methacryloylamino]phenoxy}butyric acid (Compound 28)
0.67 g of compound 28 was obtained in a similar manner to those described in the Examples 1 and 2 using 1.69 g of ethyl 4-(2-aminophenoxy)butyrate and 1.10 g of 3-(1-benzylindol-5-yl)methacrylic acid obtained according to the procedures described in the Reference Examples 1-4.

reactant | ethyl 4-(2-aminophenoxy)butyrate | 1.69 g | NC1=C(OCCCC(=O)OCC)C=CC=C1 | C12H17NO3
reactant | 3-(1-benzylindol-5-yl)methacrylic acid | 1.10 g | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)C=C(C(=O)O)C | C19H17NO2
product | 4-{2-[3-(1-benzylindol-5-yl)methacryloylamino]phenoxy}butyric acid | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)C=C(C(=O)NC1=C(OCCCC(=O)O)C=CC=C1)C | C29H28N2O4
